US05100895
5-(3-Cyclopropyl-1,2,4-oxadiazol-5-yl)-2,3-dihydrodiimidazo[1,5-a:1',2'-c]quinazoline
A mixture of ethyl 2,3-dihydrodiimidazo[1,5-a:1',2'-c]quinazoline-5-carboxylate (1.0 g, 3.5 mmol), cyclopropancarboxamide oxime (1.0 g, 10 mmol), crushed 4 Å molecular sieves (1 g), and sodium hydride (approx. 10 mg of a 55% oil dispersion) in dry DMF was stirred at room temperature for one week. Additional catalytic amounts of NaH were added regularly during the reaction (4×10 mg). Then dichloromethane (50 ml) was added, and the insoluble material was removed by filtration through celite. The filtrate was evaporated in vacuo, the residue triturated with water (50 ml), and the resulting precipitate was filtered off. The crude product thus obtained was heated at reflux for 10 min. in a mixture of water (10 ml), ethanol (5 ml), and 4M sodium hydroxide (2 ml). Then the mixture was cooled to room temperature and the precipitate was filtered off and dried to give the title compound, m.p. 235°-238° C. (Compound 2 ).

reactant | ethyl 2,3-dihydrodiimidazo[1,5-a:1',2'-c]quinazoline-5-carboxylate | 3.5 mmol, 1.0 g | N=1CCN2C=3N(C=4C=CC=CC4C21)C=NC3C(=O)OCC | C15H14N4O2
reactant | cyclopropancarboxamide oxime | 10 mmol, 1.0 g | C1(CC1)C(N)=NO | C4H8N2O
reactant | sodium hydride | [H-].[Na+]
reactant | sodium hydroxide | 4M, 2 ml | [OH-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | water | 10 ml | O | H2O
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 5-(3-Cyclopropyl-1,2,4-oxadiazol-5-yl)-2,3-dihydrodiimidazo[1,5-a:1',2'-c]quinazoline | C1(CC1)C1=NOC(=N1)C=1N=CN2C1N1C(C=3C=CC=CC23)=NCC1 | C17H14N6O
